US08633239B2
(R)-3-((1-methylpyrrolidin-2-yl)methyl)-5-(2-(phenylsulfonyl)ethyl)-1H-indole (Formula I)
To a suspension of LAH and THF was slowly charged (R)-(1-methylpyrrolidin-2-yl)(5-(2-(phenylsulfonyl)ethyl)-1H-indol-3-yl)methanone at 0° C. and then the reaction was slowly heated to reflux. Upon completion of the reaction in about 3-5 h, the reaction was cooled to 0-5° C. and 1N NaOH soln and H2O were sequentially charged. The solids were filtered and the precipitate washed with additional THF. The filtrate was distilled to dryness under reduced pressure. The residue was dissolved in water and the aqueous layer extracted with dichloromethane and dried over sodium sulfate and distilled to give the title compound in 75-80% yield.

reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | THF | C1CCOC1 | C4H8O
reactant | (R)-(1-methylpyrrolidin-2-yl)(5-(2-(phenylsulfonyl)ethyl)-1H-indol-3-yl)methanone | CN1[C@H](CCC1)C(=O)C1=CNC2=CC=C(C=C12)CCS(=O)(=O)C1=CC=CC=C1 | C22H24N2O3S
reactant | NaOH | 1N | [OH-].[Na+]
solvent | H2O | O | H2O
product | (R)-3-((1-methylpyrrolidin-2-yl)methyl)-5-(2-(phenylsulfonyl)ethyl)-1H-indole | 75-80% yield | CN1[C@H](CCC1)CC1=CNC2=CC=C(C=C12)CCS(=O)(=O)C1=CC=CC=C1 | C22H26N2O2S
